US07019453B2
To a solution of ethyl vinyl ether (19.47 g, 270 mmol) in THF was added 106 mL of tert-butyl lithium (1.7 M, 180 mmol) dropwise at −78° C. The solution was warmed to 0° C. with an ice bath, stirred for another one hour and then re-cooled to −78° C. To this lithiated enol ether was added dropwise a solution of 5-methoxymethoxy-2-pentanone (13.16 g 90 mmol) in 10 mL of THF. The resulting mixture was stirred for one hour at −78° C. and one and a half hour at 0° C., and then slowly warmed up to room temperature. The reaction mixture was quenched with 70 mL of saturated NH4Cl aq. The organic layer was separated and the aqueous layer was extracted with 3×100 mL of diethyl ether. The combined organic layer was dried over Na2SO4 and concentrated via rotary evaporation to afford 2-ethoxy-3-hydroxy-6-methoxymethoxy-3-methyl-1-hexene in quantitative yield (19.4 g). The crude product was used in the subsequent reaction without further purification.

reactant | ethyl vinyl ether | 270 mmol, 19.47 g | C(=C)OCC | C4H8O
reactant | tert-butyl lithium | 180 mmol, 1.7 M, 106 mL | C(C)(C)(C)[Li]
reactant | 5-methoxymethoxy-2-pentanone | 90 mmol, 13.16 g | COCOCCCC(C)=O | C7H14O3
solvent | THF | C1CCOC1 | C4H8O
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | 2-ethoxy-3-hydroxy-6-methoxymethoxy-3-methyl-1-hexene | quantitative yield | C(C)OC(=C)C(CCCOCOC)(C)O | C11H22O4
